* P0 smoke: instantiate all 11 VDMOS devices, op at T=27 and T=125 C,
* with case=0 (TT), MM_ON=1, PROC_ON=1. Verifies the temper/agauss split.
.include "../autohv_bicmos180_case.lib"
.param case=0
.param PROC_ON=1
.param MM_ON=1

* --- N-channel drains @ +3 V, gates @ +2.5 V ---
Vdn dn 0 3
Vgn gn 0 2.5
XND20  dn gn 0 NDMOS20V  W=20u
XND40  dn gn 0 NDMOS40V  W=20u
XND60  dn gn 0 NDMOS60V  W=20u
XND80  dn gn 0 NDMOS80V  W=20u
XND120 dn gn 0 NDMOS120V W=20u
XND200 dn gn 0 NDMOS200V W=20u L=8u

* --- P-channel drains @ -3 V, gates @ -2.5 V ---
Vdp dp 0 -3
Vgp gp 0 -2.5
XPD20 dp gp 0 PDMOS20V W=20u
XPD40 dp gp 0 PDMOS40V W=20u
XPD60 dp gp 0 PDMOS60V W=20u
XPD80 dp gp 0 PDMOS80V W=20u

* --- Depletion n-channel (vto < 0): drain @ +3 V, gate @ 0 V ---
Vdd dd 0 3
Vgd gd 0 0
XDN20 dd gd 0 DNMOS20V W=20u

.control
op
echo OK_AT_27
set temp=125
op
echo OK_AT_125
quit
.endc
.end
